US06127335
A solution of 0.28 g of cyclo-(Arg(Mtr)-Gly-Asp-DPhe-DhPro) [obtainable by cyclization according to Ex. 1] in 8.4 ml of TFA, 1.7 ml of dichloromethane and 0.9 ml of thiophenol is allowed to stand at room temperature for 4 hours, then concentrated, and the residue is diluted with water and then freeze-dried. Gel filtration on Sephadex G 10 (acetic acid/water 1:1) and subsequent purification by preparative HPLC under the conditions indicated give cyclo-(Arg-Gly-Asp-DPhe-DhPro); FAB-MS (M+H): 587.

reactant | cyclo-(Arg(Mtr)-Gly-Asp-DPhe-DhPro) | 0.28 g | N1[C@@H](CCCNC(NS(=O)(=O)C2=C(C)C=C(OC)C(C)=C2C)=N)C(=O)NCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](CC2=CC=CC=C2)C(=O)N2[C@@H](C1=O)CCCC2 | C37H50N8O10S
solvent | TFA | 8.4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 1.7 ml | ClCCl | CH2Cl2
solvent | thiophenol | 0.9 ml | C1(=CC=CC=C1)S | C6H6S
product | cyclo-(Arg-Gly-Asp-DPhe-DhPro) | N1[C@@H](CCCNC(N)=N)C(=O)NCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@H](CC2=CC=CC=C2)C(=O)N2[C@@H](C1=O)CCCC2 | C27H38N8O7
